US09145380B2
a) 2-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide
A mixture of 2-amino-5-methyl-benzenesulfonamide (0.1 g, 0.53 mmol) and 2-(4-bromo-phenyl)-ethanesulfonyl chloride (0.14 g, 0.49 mmol) in anhydrous pyridine (4 mL) was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (20 mL) and the organic phase was washed with aqueous hydrochloric acid (1 M, 20 mL), saturated sodium bicarbonate (20 mL) and brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative TLC, using 5% methanol in dichloromethane as the eluent, to give 80 mg (38% yield) of title compound.

reactant | 2-amino-5-methyl-benzenesulfonamide | 0.53 mmol, 0.1 g | NC1=C(C=C(C=C1)C)S(=O)(=O)N | C7H10N2O2S
reactant | 2-(4-bromo-phenyl)-ethanesulfonyl chloride | 0.49 mmol, 0.14 g | BrC1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8BrClO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide | 80 mg, 38% yield | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)C)S(=O)(=O)N | C15H17BrN2O4S2
